US08242153B2
To a solution of (S)-4-[3-(4-chloro-phenyl)-3-methoxy-prop-1-ynyl]-2,2-dimethyl-oxazolidine-3-carboxylic acid tert-butyl ester (2.50 g) in ethyl acetate (100 ml) at room temperature was added platinum(IV) oxide monohydrate (484 mg). The mixture was stirred under an atmosphere of hydrogen (1 atm) at room temperature for 1 h. The catalyst was removed by filtration and the filtrate was concentrated in vacuo to yield (S)-4-[3-(4-chloro-phenyl)-3-methoxy-propyl]-2,2-dimethyl-oxazolidine-3-carboxylic acid tert-butyl ester as a light yellow oil (1.57 g, 62%); MS (ISP): 386.2 ([{37Cl}M+H]+), 384.2 ([{35Cl}M+H]+).

reactant | (S)-4-[3-(4-chloro-phenyl)-3-methoxy-prop-1-ynyl]-2,2-dimethyl-oxazolidine-3-carboxylic acid tert-butyl ester | 2.50 g | C(C)(C)(C)OC(=O)N1C(OC[C@@H]1C#CC(OC)C1=CC=C(C=C1)Cl)(C)C | C20H26ClNO4
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
catalyst | platinum(IV) oxide monohydrate | 484 mg | O.[Pt](=O)=O
product | (S)-4-[3-(4-chloro-phenyl)-3-methoxy-propyl]-2,2-dimethyl-oxazolidine-3-carboxylic acid tert-butyl ester | 1.57 g, 62% | C(C)(C)(C)OC(=O)N1C(OC[C@@H]1CCC(OC)C1=CC=C(C=C1)Cl)(C)C | C20H30ClNO4
